US05604242
2-Bromobiphenyl (20.0 g, 86 mmol) in THF (85 ml) was dropwise added to a refluxing suspension of magnesium (2.1 g, 86 mmol) in THF (15 ml). The reaction mixture was refluxed for 18 h and an extra batch of 2-bromobiphenyl (2.0 g, 8.6 mmol) was added. The reaction mixture was refluxed for 2 h and cooled to 0° C. on an icebath. Ethyleneoxide (14.0 g, 0.32 mol) was was added. The reaction mixture was refluxed for 18 h, cooled to 0° C. and a saturated solution of ammonium chloride (100 ml) was dropwise added at this temperature. The reaction mixture was diluted with diethyl ether (100 ml) and concentrated hydrochloric acid was added until pH 2. The organic phase was separated, dried (MgSO4) and concentrated in vacuo. The residue was submitted to column chromatography on silica gel (800 ml) using heptane and ethyl acetate (7:3) as eluent to give 8.5 g of 2-(biphenyl-2-yl)ethanol as an oil.

reactant | 2-Bromobiphenyl | 86 mmol, 20.0 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | magnesium | 86 mmol, 2.1 g | [Mg] | Mg
reactant | 2-bromobiphenyl | 8.6 mmol, 2.0 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | Ethyleneoxide | 0.32 mol, 14.0 g | C1CO1 | C2H4O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 85 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | hydrochloric acid | Cl | ClH
product | 2-(biphenyl-2-yl)ethanol | 8.5 g | C1(=C(C=CC=C1)CCO)C1=CC=CC=C1 | C14H14O
